US05705499
2-chloro-5,11-dihydro-11-ethyl-8-(4-(methoxycarbonyl)phenyloxy)methyl-5-methyl-6H-dipyrido[3,2-b :2',3'-e][1,4]diazepin-6-one
Using a procedure analogous to that described in Example 98, the title compound, m.p. 196°-197° C., was prepared from 2-chloro-8-chloromethyl5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and methyl 4-hydroxybenzoate. The yield was 45% of theory.

reactant | 2-chloro-8-chloromethyl5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCl)=O)C | C15H14Cl2N4O
reactant | methyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
product | 2-chloro-5,11-dihydro-11-ethyl-8-(4-(methoxycarbonyl)phenyloxy)methyl-5-methyl-6H-dipyrido[3,2-b :2',3'-e][1,4]diazepin-6-one | yield was 45% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)COC3=CC=C(C=C3)C(=O)OC)=O)C | C23H21ClN4O4
